US08486979B2
2-fluoro-4-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-fluoro-4-hydroxybenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.09 (t, J=8.7 Hz, 1 H), 7.63 (ddd, J=7.9, 5.2, 0.8 Hz, 1 H), 7.86-7.93 (m, 2 H), 8.53 (dt, J=7.9, 2.0 Hz, 1 H), 8.72 (dd, J=4.8, 1.6 Hz, 1 H), 9.27 (dd, J=2.4, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 258 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-fluoro-4-hydroxybenzoic acid | FC=1C=C(C(=O)O)C=CC1O | C7H5FO3
reactant | NH3 | N | H3N
product | 2-fluoro-4-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol | FC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=NC=CC1)O | C13H8FN3O2
